US09340510B2
6-Cyclopropylmethoxy-4-methoxy-1,2,3,4-tetrahydro-isoquinoline hydrochloride
To 200 mg (0.600 mmol) 6-cyclopropylmethoxy-4-methoxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (example XLVI) in 3 mL dioxane are added 600 μL (2.40 mmol) HCl solution in dioxane (c=4 mol/L). After stirring over night at r.t. the reaction mixture is treated with DIPE, the precipitate is filtered off and dried at 40° C.

reactant | 6-cyclopropylmethoxy-4-methoxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.600 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C(C1)OC)OCC1CC1 | C19H27NO4
reactant | HCl | 2.40 mmol, 600 μL | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mol/L | O1CCOCC1 | C4H8O2
product | 6-Cyclopropylmethoxy-4-methoxy-1,2,3,4-tetrahydro-isoquinoline hydrochloride | Cl.C1(CC1)COC=1C=C2C(CNCC2=CC1)OC | InChI=1S/C14H19NO2.ClH/c1-16-14-8-15-7-11-4-5-12(6-13(11)14)17-9-10-2-3-10;/h4-6,10,14-15H,2-3,7-9H2,1H3;1H
